US07320973B2
(R)-2-Hydroxymethylpyrrolidine (505 mg, 5.00 mmol), 3,4-methylenedioxyphenethyl mesylate (1.34 g, 5.50 mmol), sodium carbonate (585 mg, 5.50 mmol) and sodium iodide (50 mg, 0.33 mmol) were added to acetonitrile (50 ml), and they were heated at 90° C. under reflux for 13.5 hours. The solvent was evaporated under reduced pressure, and the residue was distributed into ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with water and then dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was dissolved in 25 ml of dichloromethane. 712 mg (5.5 mmol) of diisopropylethylamine and 630 mg (5.5 mmol) of methanesulfonyl chloride were added to the obtained solution under stirring under cooling with water. They were stirred under cooling with ice for 1 hour and then at room temperature for 2 hours. The reaction mixture was distributed into dichloromethane and saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was subjected to the silica gel column chromatography. After the elution with hexane and ethyl acetate (15:1) as the eluent, suitable fractions were collected and the solvent was evaporated under reduced pressure to obtain (R)-3-chloro-1-(3,4-methylenedioxyphenethyl)piperidine in the form of a light yellow oily substance (1.02 g, 76%).

reactant | (R)-2-Hydroxymethylpyrrolidine | 5.00 mmol, 505 mg | OC[C@@H]1NCCC1 | C5H11NO
reactant | 3,4-methylenedioxyphenethyl mesylate | 5.50 mmol, 1.34 g | S(C)(=O)(=O)OCCC1=CC2=C(C=C1)OCO2 | C10H12O5S
reactant | sodium carbonate | 5.50 mmol, 585 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.33 mmol, 50 mg | [I-].[Na+]
reactant | diisopropylethylamine | 5.5 mmol, 712 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 5.5 mmol, 630 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (R)-3-chloro-1-(3,4-methylenedioxyphenethyl)piperidine | Cl[C@H]1CN(CCC1)CCC1=CC2=C(C=C1)OCO2 | C14H18ClNO2
